US04966630
First, 1030 g of a solution of etidronic acid (206 g as etidronic acid) was heated to 70° C. and 2035 g of a zinc oxide slurry (407 g as zinc oxide) held at 70° C. was added dropwise over about 2 hours with stirring. The mol ratio of zinc oxide to etidronic acid was 5/1. This slurry was stirred at 60° to 70° C. for 5 hours and, then, cooled to room temperature. The slurry was filtered and the dehydrated cake was washed with distilled water 3 to 5 times and, then, subjected to dehydration, drying and pulverization to give a zinc oxide/zinc etidronate composition.

reactant | etidronic acid | 206 g | CC(O)(P(=O)(O)O)P(=O)(O)O | C2H8O7P2
reactant | zinc oxide | 2035 g | [O-2].[Zn+2]
product | zinc oxide zinc etidronate | [O-2].[Zn+2].[Zn].CC(O)(P(=O)(O)O)P(=O)(O)O | InChI=1S/C2H8O7P2.O.2Zn/c1-2(3,10(4,5)6)11(7,8)9;;;/h3H,1H3,(H2,4,5,6)(H2,7,8,9);;;/q;-2;;+2
